US06235731B1
3) Synthesis of 3-(1-tert-butoxycarbonyl-4-piperidyl)-1-propylamine
To a solution of 20.24 g (54.34 mM) of 3-(1-tert-butoxycarbonyl-4-piperidyl)-1-propylphthalimide in 350 ml of ethanol was added 7.9 ml (163 mM) of hydrazine monohydrate and the mixture was refluxed for one hour. After cooling to room temperature, the resulting precipitate (phthalide) was filtered off and washed with a small amount of ethanol. The filtrate and washes were pooled and the solvent was distilled off under reduced pressure. The residue was extracted with chloroform and the organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide the title compound. Light-yellow oil. Yield 13.08 g (99%)

reactant | 3-(1-tert-butoxycarbonyl-4-piperidyl)-1-propylphthalimide | 54.34 mM, 20.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C2C(C(=O)NC2=O)(C=CC1)CCC | C21H30N2O4
reactant | hydrazine monohydrate | 163 mM, 7.9 ml | O.NN
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 3-(1-tert-butoxycarbonyl-4-piperidyl)-1-propylamine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
